US04866091
A mixture of 4'-cyano-2'-(2,4-difluorophenoxy)methanesulfonanilide (1.5 g) and Raney's Nickel (1.5 g) in 75% formic acid (40 ml) was refluxed for 2 hours. The mixture was filtered and the filtrate was concentrated to dryness. The residue was recrystallized from ethanol to give pale yellow needles of 2'-(2,4-difluorophenoxy)-4'-formylmethanesulfonanilide (1.4 g).

reactant | 4'-cyano-2'-(2,4-difluorophenoxy)methanesulfonanilide | 1.5 g | C(#N)C1=CC(=C(NS(=O)(=O)C)C=C1)OC1=C(C=C(C=C1)F)F | C14H10F2N2O3S
reactant | formic acid | 40 ml | C(=O)O | CH2O2
catalyst | Raney's Nickel | 1.5 g | [Ni] | Ni
product | 2'-(2,4-difluorophenoxy)-4'-formylmethanesulfonanilide | 1.4 g | FC1=C(OC2=C(NS(=O)(=O)C)C=CC(=C2)C=O)C=CC(=C1)F | C14H11F2NO4S
